US08012976B2
Ethyl 2-(4-fluorophenyl)-4-oxo-3-(1,4,5-trimethyl-1H-imidazol-2-yl)-1,2,3,4-tetrahydroquinoline-5-carboxylate
A mixture of compound (E)-4-(4-fluorobenzylideneamino)isobenzofuran-1(3H)-one (510 mg, 2.0 mmol) and 1,4,5-trimethyl-1H-imidazole-2-carbaldehyde (304 mg, 2.2 mmol) in ethyl propionate (20 mL) was cooled to 0° C. Then a solution of sodium ethoxide in ethanol (sodium (184 mg, 8.0 mmol) in ethanol (10 mL)) was added dropwise. After the addition, the mixture was stirred at room temperature for 2.5 hr. The mixture was quenched with water (20 mL) and solvent was removed under reduced pressure. The residue was dissolved in water and extracted with ethyl acetate (100 mL×3), then the extraction was washed with water, brine and evaporated, the crude product was purified by chromatography to obtain a yellow solid (150 mg, yield: 18%). LC-MS (ESI) m/z: 421 (M+1)+.

reactant | (E)-4-(4-fluorobenzylideneamino)isobenzofuran-1(3H)-one | 2.0 mmol, 510 mg | FC1=CC=C(\C=N\C2=C3COC(C3=CC=C2)=O)C=C1 | C15H10FNO2
reactant | 1,4,5-trimethyl-1H-imidazole-2-carbaldehyde | 2.2 mmol, 304 mg | CN1C(=NC(=C1C)C)C=O | C7H10N2O
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | ethanol | 8.0 mmol, 10 mL, 184 mg | C(C)O | C2H6O
solvent | ethyl propionate | 20 mL | C(CC)(=O)OCC | C5H10O2
product | Ethyl 2-(4-fluorophenyl)-4-oxo-3-(1,4,5-trimethyl-1H-imidazol-2-yl)-1,2,3,4-tetrahydroquinoline-5-carboxylate | 150 mg, yield: 18% | FC1=CC=C(C=C1)C1NC=2C=CC=C(C2C(C1C=1N(C(=C(N1)C)C)C)=O)C(=O)OCC | C24H24FN3O3
